US07125900B2
N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-2,4-dichloro-6-methylbenzenesulfonamide
The title compound was prepared from 5-acetyl-2-amino-4-methylthiazole and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (28.4 mg) with purity >90%. MS (pos) m/z 379.1, 381.1.

reactant | 5-acetyl-2-amino-4-methylthiazole | C(C)(=O)C1=C(N=C(S1)N)C | C6H8N2OS
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-2,4-dichloro-6-methylbenzenesulfonamide | C(C)(=O)C1=C(N=C(S1)NS(=O)(=O)C1=C(C=C(C=C1C)Cl)Cl)C | C13H12Cl2N2O3S2
